US04962115
To a stirred and cooled (ice-bath) solution of 6.64 parts of cis-4-amino-5-chloro-N-[3-hydroxy-1-(2-pyridinylmethyl)-4-piperidinyl]-2-methoxybenzamide in 68 parts of tetrahydrofuran were added 1.95 parts of N,N-diethylethanamine. Then there was added dropwise a solution of 1.41 parts of acetyl chloride in 27 parts of tetrahydrofuran at about 0° C. Upon completion, the mixture was allowed to reach slowly room temperature and stirring was continued for 18 hours at this temperature. Sodium carbonate was added and the whole was evaporated. The residue was taken up in water and the product was extracted with dichloromethane. The extract was washed with water, dried, filtered and evaporated. The residue was purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was further purified by HPLC using a mixture of trichloromethane and methanol (97:3 by volume) as eluent. The first fraction was collected and the eluent was evaporated. The residue was suspended in petroleum ether. The product was filtered off and dried, yielding 2.03 parts of cis-4-[[4-(acetylamino)-5-chloro-2-methoxybenzoyl]amino]-1-(2-pyridinylmethyl)-3-piperidinol acetate (ester); mp. 179.4° C. (compound 229). The second fraction was collected and the eluent was evaporated. The residue was suspended in petroleum ether. The product was filtered off and dried, yielding 2.44 parts of cis-4-[(4-amino-5-chloro-2-methoxybenzoyl)amino]-1-(2-pyridinylmethyl)-3-piperidinol acetate (ester); mp. 181.7° C. (compound 230).

reactant | cis-4-amino-5-chloro-N-[3-hydroxy-1-(2-pyridinylmethyl)-4-piperidinyl]-2-methoxybenzamide | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CC2=NC=CC=C2)O)C=C1Cl)OC | C19H23ClN4O3
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | Sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
product | cis-4-[[4-(acetylamino)-5-chloro-2-methoxybenzoyl]amino]-1-(2-pyridinylmethyl)-3-piperidinol acetate | C(C)(=O)O[C@@H]1CN(CC[C@@H]1NC(C1=C(C=C(C(=C1)Cl)NC(C)=O)OC)=O)CC1=NC=CC=C1 | C23H27ClN4O5
